2163-03-26 11:47:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.3
F - [**2163-3-26**] 12:00 AM
 IVF boluses x 4L for hypotension
 Liver team consult
GNR BCx 2/3 bottles from yesterday
Just arrived back from CT torso
                          History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-3-25**] 09:00 PM
   Vancomycin - [**2163-3-26**] 08:38 AM
   Levofloxacin - [**2163-3-26**] 09:43 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-26**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**65**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.1
C (97
   HR: 105 (92 - 119) bpm
   BP: 91/69(74) {78/48(55) - 110/70(78)} mmHg
   RR: 24 (12 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,079 mL
                                                                  4,521 mL
   PO:
             TF:
   IVF:
                                                                  3,079 mL
                                                                  3,621 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                  1,200 mL
   Urine:
                                                                    550 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,529 mL
                                                                  3,321 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender, Tender: slight epigastric
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   183 K/uL
   106 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.5 mEq/L
   14 mg/dL
   108 mEq/L
   137 mEq/L
   32.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2163-3-25**]  07:20 PM
                             [**2163-3-25**]  08:30 PM
                             [**2163-3-26**]  04:21 AM
   WBC
   10.9
   11.7
   10.6
   Hct
   35.8
   34.2
   32.2
   Plt
   200
   188
   183
   Cr
   0.7
   0.7
   TropT
   0.02
   Glucose
   184
   106
   Other labs: PT / PTT / INR:15.9/32.2/1.4, CK / CKMB /
   Troponin-T:102/3/0.02, ALT / AST:603/379, Alk Phos / T Bili:63/2.3,
   Differential-Neuts:72.0 %, Band:16.0 %, Lymph:6.0 %, Mono:4.0 %,
   Eos:2.0 %, Lactic Acid:1.9 mmol/L, Albumin:3.4 g/dL, LDH:300 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   #Sepsis
   - GNR from blood
   - hypotension responsive to IVF boluses
   - Leukocytosis, bandemia
   - empiric coverage zosyn/levo pending sensi on GNR
   - d/c Vanc
   - Given transaminitis ? liver source
   # CAD:
   -LHC neg for sig CAD
   - ASA 81mg
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2163-3-25**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2163-03-27 09:56:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: GNR sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 Developed hypotension requiring IVF boluses as well as pressors for
   two hours
 MULTI LUMEN - START [**2163-3-26**] 01:26 PM
 TRANSTHORACIC ECHO - At [**2163-3-26**] 02:00 PM
 RUQ U/S
Now [**4-13**] BCx+ GNR
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2163-3-26**] 08:38 AM
   Levofloxacin - [**2163-3-26**] 09:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2163-3-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-3-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-27**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**65**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 75 (75 - 107) bpm
   BP: 129/90(99) {80/62(65) - 131/90(99)} mmHg
   RR: 22 (15 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
   CVP: 19 (14 - 22)mmHg
   Total In:
                                                                  5,915 mL
                                                                    180 mL
   PO:
   TF:
   IVF:
                                                                  5,015 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                  1,275 mL
   Urine:
                                                                  2,150 mL
                                                                  1,275 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  3,565 mL
                                                                 -1,095 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   141 K/uL
   103 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   10 mg/dL
   105 mEq/L
   137 mEq/L
   33.6 %
   12.3 K/uL
        [image002.jpg]
                             [**2163-3-25**]  07:20 PM
                             [**2163-3-25**]  08:30 PM
                             [**2163-3-26**]  04:21 AM
                             [**2163-3-26**]  03:47 PM
                             [**2163-3-27**]  03:48 AM
   WBC
   10.9
   11.7
   10.6
   14.7
   12.3
   Hct
   35.8
   34.2
   32.2
   33.3
   33.6
   Plt
   200
   188
   183
   147
   141
   Cr
   0.7
   0.7
   0.6
   TropT
   0.02
   Glucose
   184
   106
   103
   Other labs: PT / PTT / INR:17.4/35.1/1.6, CK / CKMB /
   Troponin-T:102/3/0.02, ALT / AST:460/189, Alk Phos / T Bili:61/2.8,
   Differential-Neuts:89.0 %, Band:3.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:1.9 mmol/L, Albumin:3.4 g/dL, LDH:219 IU/L, Ca++:7.7
   mg/dL, Mg++:2.6 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
Sepsis
   - GNR from blood 3/3 bottles+
   - hypotension responsive to IVF boluses
   -able to wean off pressors
   - Leukocytosis, bandemia
   - empiric coverage zosyn/levo pending sensi on GNR
   - d/c Vanc
   - Given transaminitis ? liver source
 CAD:
   -LHC neg for sig CAD
   - ASA 81mg
   -STE V2 - ? Brugada variant per Cardiology
 LIVER FUNCTION ABNORMALITIES
   -T Bili, coags creeping up suggesting synthetic disturbance in addition
   to transaminitis
   -transaminitis still cont to improve
   -hep panel pending
   -liver service following
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2163-3-25**] 07:45 PM
   Multi Lumen - [**2163-3-26**] 01:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2163-03-28 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2163-3-27**] 09:32 AM - WNL
 EKG - At [**2163-3-27**] 11:00 AM - Improved brugada
   [**3-27**]
   - Pt feels short of breath when lying down, desats to 88% on RA with
   movement (on 2L NC)
   - RUQ within normal limits (mild gallbladder edema)
   - liver recs- follow up on viral serologies, still unclear cause, trend
   lfts, they will continue to follow. Today: ?cholangitis, improving
   LFTs, f/u viral serologies, MRCP
   - EKG: Brugada pattern less prominent, ST elevations more c/w J point
   elevations
   - On Levofloxacin and Zosyn with down trending WBC, improving ALT/AST
   and INR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2163-3-26**] 08:38 AM
   Levofloxacin - [**2163-3-27**] 11:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2163-3-28**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-3-28**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-28**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**65**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 55 (53 - 99) bpm
   BP: 133/84(96) {123/80(90) - 143/98(117)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
    CVP: 19 (19 - 19)mmHg
   Total In:
                                                                    980 mL
                                                                    100 mL
   PO:
   TF:
   IVF:
                                                                    980 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                    300 mL
   Urine:
                                                                  2,570 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,590 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   11.0 g/dL
   111 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.0 mEq/L
   14 mg/dL
   106 mEq/L
   136 mEq/L
   32.1 %
   10.1 K/uL
        [image002.jpg]
   ECHO: Mildly dilated right ventricle with normal global and regional
   biventricular systolic function
   RUQ ultrasound: mild gallbladder edema
   .
   HCV viral load pending
   ALT 357
   AST121
   AP73
   TBili1.6
   Alb 3.1
   INR 1.3
   Blood cultures X4 NGTD
   UCx negative
   BCx [**4-13**] Ecoli
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------    16 I
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----   <=1 S
                             [**2163-3-25**]  07:20 PM
                             [**2163-3-25**]  08:30 PM
                             [**2163-3-26**]  04:21 AM
                             [**2163-3-26**]  03:47 PM
                             [**2163-3-27**]  03:48 AM
                             [**2163-3-27**]  04:19 PM
                             [**2163-3-28**]  03:30 AM
   WBC
   10.9
   11.7
   10.6
   14.7
   12.3
   12.0
   10.1
   Hct
   35.8
   34.2
   32.2
   33.3
   33.6
   31.2
   32.1
   Plt
   200
   188
   183
   147
   141
   155
   149
   Cr
   0.7
   0.7
   0.6
   0.7
   0.6
   TropT
   0.02
   Glucose
   184
   106
   103
   128
   111
   Other labs: PT / PTT / INR:15.1/31.4/1.3, CK / CKMB /
   Troponin-T:102/3/0.02, ALT / AST:357/121, Alk Phos / T Bili:73/1.6,
   Amylase / Lipase:47/19, Differential-Neuts:89.0 %, Band:3.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:3.1
   g/dL, LDH:219 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   56M h/o DM and TB 30 years ago (treated with streptomycin, INH,
   p-salicylic acid) p/w epigastric pain, STE on EKG, brought to cath lab
   where no significant CAD found, then transferred to MICU for GNR
   sepsis.
   #. Sepsis: Resolving white count and bandemia, on Levo and Zosyn for
   GNRs. Source unclear. Had CVL placed for hypotension event, was briefly
   on Dopamine (2 hours) and Levophed and received 2 L NS.
   - Curbside ID re: antibiotics, will discontinue Levofloxacin for now
   given resistance
   - Will need Zosyn vs. CTX X 2 week course
   - Follow-up blood cultures (surveillance)
   - Monitor BP, low threshold for fluid boluses
   # Hepatitis: Transaminases and Alk Phos are improving, but INR and bili
 representatives of synthetic liver function
 also improving
   gradually (like all have peaked). Hepatitis viral serologies are
   pending. Imaging has been unrevealing so far. Unclear whether the liver
   inflammation is cause, effect or unrelated to the GNR bacteremia. It is
   possibly a case of shock liver, resolving, after sepsis-driven
   hypotension, either during or before this hospitalization. RUQ
   ultrasound yesterday was unrevealing. ?early cholangitis.
   - MRCP today
   - Trend LFTs, coags and bilis
   - F/u hep viral panel
   .
   # ST Elevation: He has had ST elevation in V2 in recent EKGs, likely a
   Brugada variant related to the stress of his sepsis events. Echo was
   reassuring. EKGs continue to improve.
   - Continue baby aspirin
   - telemetry
   - may need EP out patient f/u
   .
   # Orthopnea: Likely secondary to volume overload. Has received 6+
   liters length of stay. Does have pleural effusion on CXR, however and
   ground glass opacities on CT chest -- ?sympathetic effusion given liver
   insult?
   - Will continue to monitor
   - Allow for autodiuresis for now given previously low blood pressures
   .
   # DM: SSI, last A1C 6.2%
   FEN: Diabetic Diet
   ACCESS: PIV's , CVL
 Will order PICC today and allow for discontinuing
   CVL when PICC obtained
   PROPHYLAXIS:
   -DVT ppx with sc heparin tid
   CODE: full
   Communication with patient, family
 HYPOTENSION (NOT SHOCK)
 LIVER FUNCTION ABNORMALITIES
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2163-3-26**] 01:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2163-03-28 12:24:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: GNR sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2163-3-27**] 09:32 AM
 EKG - At [**2163-3-27**] 11:00 AM
 desat with movement so NC restarted
                              History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2163-3-26**] 08:38 AM
   Piperacillin/Tazobactam (Zosyn) - [**2163-3-28**] 04:00 AM
   Levofloxacin - [**2163-3-28**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-3-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-28**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**65**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.9
   HR: 58 (53 - 99) bpm
   BP: 140/93(104) {126/80(92) - 143/98(117)} mmHg
   RR: 26 (20 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                    980 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                    980 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                    300 mL
   Urine:
                                                                  2,570 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,590 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : bases b/l
   L>R)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   149 K/uL
   111 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.0 mEq/L
   14 mg/dL
   106 mEq/L
   136 mEq/L
   32.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2163-3-25**]  07:20 PM
                             [**2163-3-25**]  08:30 PM
                             [**2163-3-26**]  04:21 AM
                             [**2163-3-26**]  03:47 PM
                             [**2163-3-27**]  03:48 AM
                             [**2163-3-27**]  04:19 PM
                             [**2163-3-28**]  03:30 AM
   WBC
   10.9
   11.7
   10.6
   14.7
   12.3
   12.0
   10.1
   Hct
   35.8
   34.2
   32.2
   33.3
   33.6
   31.2
   32.1
   Plt
   200
   188
   183
   147
   141
   155
   149
   Cr
   0.7
   0.7
   0.6
   0.7
   0.6
   TropT
   0.02
   Glucose
   184
   106
   103
   128
   111
   Other labs: PT / PTT / INR:15.1/31.4/1.3, CK / CKMB /
   Troponin-T:102/3/0.02, ALT / AST:357/121, Alk Phos / T Bili:73/1.6,
   Amylase / Lipase:47/19, Differential-Neuts:89.0 %, Band:3.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:3.1
   g/dL, LDH:219 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
Sepsis
   - E. coli  from initial blood cx 3/3 bottles+
   - has cleared on subsequent bcx
   - hypotension resolved
   - Leukocytosis/bandemia resolved
   - cont with zosyn for coverage based on sensitivies
   - should have 2 weeks total abx given high grade GNR bacteremia
   - presumed biliary/cholangitic source
 CAD:
   - LHC neg for sig CAD
   - ASA 81mg
   -STE V2 - ? Brugada variant per Cardiology
   -STE gradually resolving more like J-point elevation at present
 LIVER FUNCTION ABNORMALITIES
   -everything now trending downward
   -hep panel pending
   -liver service following
 Hypoxemia
   -CT chest -- small Rt effusion, some ground glass abnormalities b/l,
   atelectasis
   -No cough/resp symptoms other than small supp O2 requirement and
   radiographic findings
   -? some fluid overload in setting sepsis vs. sympathetic effusion
   -distant hx treated pleural tb so possibly some abnormalities at
   baseline
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2163-3-26**] 01:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: